US05432169
3β-Acetylthio-14β,15β-epoxy-17β-(3-furyl)-5β-androstane (VI,b)
Diisopropyl azodicarboxylate (3.5 ml) was added to a solution of 4.5 g of triphenylphosphine in 85 ml of tetrahydrofuran at 0° C. and the mixture was stirred for 30'. To this mixture a solution of 2.0 g of 14β,15β-epoxy-17β-(3-furyl)-5β-androstan-3α-ol and 2.05 ml of thiolacetic acid in 90 ml of tetrahydrofuran was added dropwise and the resulting mixture was stirred for an hr at room temperature. The solvent was evaporated to dryness under reduced pressure and the crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 95/5 as eluant to give 1.7 g of the title compound (VI-b) as a white solid.

reactant | Diisopropyl azodicarboxylate | 3.5 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 14β,15β-epoxy-17β-(3-furyl)-5β-androstan-3α-ol | 2.0 g | O1[C@]23[C@H]1C[C@@H]([C@@]2(C)CC[C@@H]2[C@]1(CC[C@H](C[C@H]1CC[C@@H]32)O)C)C3=COC=C3 | C23H32O3
reactant | thiolacetic acid | 2.05 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3β-Acetylthio-14β,15β-epoxy-17β-(3-furyl)-5β-androstane | 1.7 g | C(C)(=O)S[C@@H]1C[C@H]2CC[C@H]3[C@@]45[C@@H](C[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O5 | C25H34O3S
